US08871774B2
Formation of 5-chloro-3-(5-fluoro-4-(methylsulfinyl)pyrimidin-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine (51)
To a stirred solution of 5-chloro-3-(5-fluoro-4-(methylthio)pyrimidin-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine, 50, (0.078 g, 0.150 mmol) in CH2Cl2 at 0° C. was added mCPBA (0.036 g, 0.160 mmol). The mixture was kept at 0° C. for 2 hr. Then, the mixture was diluted with CH2Cl2, washed with K2CO3 (2×), dried over Na2SO4, filtered and concentrated in vacuo to provide 78 mg of the desired crude which was carried forward without further purification: LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=1.62 min (M+H) 554.47.

reactant | 5-chloro-3-(5-fluoro-4-(methylthio)pyrimidin-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine | ClC=1C=C2C(=NC1)N(N=C2C2=NC=C(C(=N2)SC)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C30H21ClFN5S
reactant | mCPBA | 0.160 mmol, 0.036 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-chloro-3-(5-fluoro-4-(methylsulfinyl)pyrimidin-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine | ClC=1C=C2C(=NC1)N(N=C2C2=NC=C(C(=N2)S(=O)C)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C30H21ClFN5OS
